US06124287
By reacting 2,3-dichloro-6-fluoroquinoxaline with aminoacetaldehyde dimethyl acetal, following a procedure that is similar to that described in example 1, there is obtained 8-fluoroimidazo[1,2-a]quinoxalin-4(5H)-one (m.p. >300° C.) and, subsequently, 4-chloro-8-fluoroimidazo[1,2-]quinoxaline. By reacting this product with cyclopentyl amine according to the method described in example 3, there is obtained 4-cyclopentylamino-8-dichloroimidazo[1,2-a]quinoxaline. m.p. (DSC)=85.7° C.(onset); IR (KBr): 3255, 2964, 1551 cm-1 ; 1H-NMR (CDCl3): δ7.8 (1H,m), 7.7÷7.35 (1H,dd, JHF =16 Hz), 7.5 (1H,d, J=2 Hz), 7.6÷7.25 (1H,dd, JHF =16 Hz), 7.05 (1H,dd), 6.0 (1H,d), 4.55 (1H,m), 2.35÷1.3 (8H,m); UV (EtOH): λmax =226, 268, 285, 296, 323, 336 nm. Elementary analysis for C15H15FN4 (m.w. 270.31): calcd. C 66.65, H 5.59, N 20.73%; found C 66.36, H 5.66, N 20.86%.

reactant | 2,3-dichloro-6-fluoroquinoxaline | ClC1=NC2=CC=C(C=C2N=C1Cl)F | C8H3Cl2FN2
reactant | aminoacetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
product | 8-fluoroimidazo[1,2-a]quinoxalin-4(5H)-one | FC1=CC=C2NC(C=3N(C2=C1)C=CN3)=O | C10H6FN3O
